US03994940
In the manner given in Example 1C, 2'-chloro-2-[3-[2-(dimethylamino)ethyl]-5-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone in ethanol is refluxed with hydrazine hydrate to give 1-[2-(dimethylamino)ethyl]-6-(o-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine. Its methanesulfamate is obtained by treatment with methanesulfamic acid in ether.

reactant | 2'-chloro-2-[3-[2-(dimethylamino)ethyl]-5-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC=C1)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)CCN(C)C)=O | C28H24ClN5O3
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 1-[2-(dimethylamino)ethyl]-6-(o-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | CN(CCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=CC=C1)C | C20H20ClN5
